US06472348B1
Preparation of 4-chloro-2-fluoro-5-isopropoxyphenyl acetonitrile (Intermediate No. 15-2)
26 g (0.53 mol) of sodium cyanide was dissolved in 700 ml of DMF, and 143 g (0.50 mol) of 4-chloro-2-fluoro-5-isopropoxybenzyl bromide was dropwise added thereto at room temperature. After stirring at room temperature for 8 hours, the reaction solution was poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure to obtain 107 g (yield: 92%) of the desired product.

reactant | sodium cyanide | 0.53 mol, 26 g | [C-]#N.[Na+]
reactant | 4-chloro-2-fluoro-5-isopropoxybenzyl bromide | 0.50 mol, 143 g | ClC1=CC(=C(CBr)C=C1OC(C)C)F | C10H11BrClFO
reactant | water | O | H2O
solvent | DMF | 700 ml | CN(C)C=O | C3H7NO
product | 4-chloro-2-fluoro-5-isopropoxyphenyl acetonitrile | 107 g, yield: 92% | ClC1=CC(=C(C=C1OC(C)C)CC#N)F | C11H11ClFNO
